US06310076B1
(3-Azidopropyl)oxyacetic Acid
A solution of 3-azidopropanol (70.1 g, 0.693 mol) in 100 mL of THF was added dropwise, in a period of 1.5 hours, to a mechanically stirred suspension of NaH (60% in mineral oil, 30.5 g, 0.763 mol) in 250 mL of THF. During the addition of 3-azidopropanol, a gentle reflux was maintained. This was followed by addition of solid NaI (10.4 g, 69.3 mmol), and tetrabutylammonium bromide (22.3 g, 69.3 mmol), and sodium chloroacetate (88.8 g, 0.763 mol). The reaction mixture was heated at reflux temperature for 19 hours, cooled, quenched initially with 20 mL of water (added dropwise) and then with 700 mL of water, washed with EtOAc (3×200 mL), acidified with concentrated HCl to pH=2, and extracted with dichloromethane (6×100 mL). The combined dichloromethane extracts were dried (MgSO4), and the solvent was removed in vacuo to give 63.3 g (58%) of the title compound as a yellow viscous oil. The crude product was used in the next step after spectral characterization.

reactant | 3-azidopropanol | 0.693 mol, 70.1 g | N(=[N+]=[N-])CCCO | C3H7N3O
reactant | NaH | 0.763 mol, 30.5 g | [H-].[Na+]
reactant | NaI | 69.3 mmol, 10.4 g | [Na+].[I-]
reactant | sodium chloroacetate | 0.763 mol, 88.8 g | ClCC(=O)[O-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium bromide | 69.3 mmol, 22.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3-Azidopropyl)oxyacetic Acid | 63.3 g, 58% | N(=[N+]=[N-])CCCOCC(=O)O | C5H9N3O3
